US04085116
To a mixture of 45 parts by volume of tetrahydrofuran and 4.005 parts of anyhydrous aluminum chloride there are added 3.86 parts of 6-(1-acetoxyethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile and 2.925 parts of sodium azide, and the resulting mixture is refluxed under stirring for 1.5 hours. After cooling, the solvent is distilled off. To the solid residue are added 2.1 parts of sodium nitrite and ice-water, and the mixture is well shaken. The insoluble material is recovered by filtration and recrystallized from ethyl acetate. The procedure yields 1.88 parts of 6-(1-acetoxyethyl)-3-(1H-tetrazol-5-yl)-chromone as colorless crystals. Melting point: 231°-232° C

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-(1-acetoxyethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile | C(C)(=O)OC(C)C=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C14H11NO4
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(1-acetoxyethyl)-3-(1H-tetrazol-5-yl)-chromone | C(C)(=O)OC(C)C=1C=C2C(C(=COC2=CC1)C1=NN=NN1)=O | C14H12N4O4
